US07449495B2
Preparation of E-4-(3-(1-adamantyl)-4-methoxyphenyl)cinnamic acid (ST 1898)
455 mg (10.8 mmol) of LiOH.H2O were dissolved in 90 ml of THF:H2O 1:1; 873 mg (2.17 mmol) of methyl E-4(3-(1-adamantyl)-4-methoxyphenyl)cinnamate were added and the solution thus obtained was kept under stirring at room temperature for 2 days. The THF was evaporated, acidified with 2N HCl and the white precipitate was filtered. The solid was washed with AcOEt and Et2O, to obtain 792 mg (94%) of the title compound.

reactant | LiOH.H2O | 10.8 mmol, 455 mg | O[Li].O
reactant | methyl E-4(3-(1-adamantyl)-4-methoxyphenyl)cinnamate | 2.17 mmol, 873 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C2=CC=C(/C=C/C(=O)OC)C=C2 | C27H30O3
solvent | THF H2O | 90 ml | C1CCOC1.O
product | E-4-(3-(1-adamantyl)-4-methoxyphenyl)cinnamic acid | 792 mg, 94% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C2=CC=C(/C=C/C(=O)O)C=C2 | C26H28O3
